US06166206
b) 5-([3-Methoxyphenyl]thio)-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
To a stirred solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (0.50 g) (J. Med. Chem., 1995, 38, 2557) and 3-methoxyphenyldisulphide(0.77 g) in anhydros tetrahydrofuran (20 ml) at -70° C. was added dropwise a solution of lithium diisopropylamide (2.79 mmol) in tetrahydrofuran (7 ml). The solution was stirred for a further 2 hours at -70° C. and then allowed to warm to ambient temperature. Water (10 ml) was added and the solution was extracted with ethyl acetate. The organic phase was separated and washed once with water, twice with dilute hydrochloric acid, twice with saturated sodium hydrogen carbonate solution and once with brine. The organic layer was dried over magnesium sulphate and evaporated in vacuo. Purification by chromatography on silica gel, eluting with isohexane/ethyl acetate (4:1 to 2:1) followed by recrystallisation from isohexane/ethyl acetate (4:1), gave the title compound (430 mg).

reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.50 g | CN1C(N(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H23N3O2
reactant | 3-methoxyphenyldisulphide | 0.77 g | COC=1C=C(C=CC1)SSC1=CC(=CC=C1)OC | C14H14O2S2
reactant | lithium diisopropylamide | 2.79 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-([3-Methoxyphenyl]thio)-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 430 mg | COC=1C=C(C=CC1)SC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C29H29N3O3S
